data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_148839_0,[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])([O:7][H:11])[O:8][H:10])([O:5][H:9])=[O:6]>>[C:1]([C:2]([O:7][H:11])=[O:8])([C:3](=[C:4]([H:13])[H:14])[H:12])([O:5][H:9])[O:6][H:10],52.70560749997742
MR_428482_2,[C:1]([C:2]([C:3]([N:4]([H:11])[H:12])([O:6][H:9])[O:7][H:8])([H:13])[H:14])(=[O:5])[H:10]>>[C:1]([C:2]([C:3]([N:4]([H:11])[H:12])=[O:7])([H:13])[H:14])([O:5][H:8])([O:6][H:9])[H:10],24.69777249995829
MR_499908_1,[C:1](/[C:2]([O:6][O:7][H:9])=[N:8]/[C:4](=[C:5](/[N:3]([H:10])[H:11])[H:13])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:2]1[C@:4]([C@@:5]([N:3]([H:10])[H:11])([O:6][O:7][H:9])[H:13])([H:12])[N:8]1)([H:14])([H:15])[H:16],68.75140999998592
MR_124386_0,[C:1]1([N:3]([H:8])[H:9])([H:10])[C:2]([O:4][O:5][H:7])([H:11])[O:6]1>>[C:1]([C:2]([O:4][O:5][H:7])=[O:6])([N:3]([H:8])[H:9])([H:10])[H:11],19.17326249999533
MR_414341_1,[C:1]([C:3](/[C:6](=[N:9]\[H:15])[H:16])=[N:7]/[H:13])(/[C:4]([C:2]([H:17])([H:18])[H:19])=[N:8]/[H:14])([N:5]([H:11])[H:12])[H:10]>>[C:1](\[C:3](/[C:4]([C:2]([H:17])([H:18])[H:19])=[N:8]/[H:14])(/[C:6](=[N:9]\[H:15])[H:16])[N:7]([H:12])[H:13])(=[N:5]/[H:11])[H:10],51.37593500001728
MR_264758_1,[C@@:1](/[C:3]([C:2]([H:15])([H:16])[H:17])=[C:6](/[O:7][H:9])[H:14])([N:4]([H:11])[H:12])([C:5](=[O:8])[H:13])[H:10]>>[C@:1]1([N:4]([H:11])[H:12])([H:10])[C@@:3]([C:2]([H:15])([H:16])[H:17])([C:5](=[O:8])[H:13])[C@@:6]1([O:7][H:9])[H:14],73.1545774999978
MR_204577_2,[C:1]([C:4]([C:2](=[C:3]([N:5]([H:11])[H:12])[N:6]([H:10])[H:13])[O:7][H:9])=[O:8])([H:14])([H:15])[H:16]>>[C:1]([C:4]1=[C:2]([O:7][H:9])[C:3]([N:5]([H:11])[H:12])([N:6]([H:10])[H:13])[O:8]1)([H:14])([H:15])[H:16],42.6398800000301
MR_339023_0,[C:1](=[C:6](\[C:4]([C:2]([H:16])([H:17])[H:18])([C:3]([O:7][H:10])=[O:9])[N:5]([H:13])[H:14])[H:15])(\[O:8][H:11])[H:12]>>[C:1]([C:3]([O:7][H:10])=[O:9])(/[C:6](=[C:4](/[C:2]([H:16])([H:17])[H:18])[N:5]([H:13])[H:14])[H:15])([O:8][H:11])[H:12],62.82467250003975
MR_134469_1,[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])([C:5]1([O:9][C:2]([H:11])([H:12])[H:13])[C:6](=[C:8]([H:22])[H:23])[C:7]1([H:20])[H:21])[H:10]>>[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])([C:5]([C:6](=[C:8]([H:22])[H:23])[O:9][C:2]([H:11])([H:12])[H:13])=[C:7]([H:20])[H:21])[H:10],72.84521999999413
MR_31243_1,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[C:4]([C:5](=[C:6]([H:15])[H:16])[H:8])[H:7])([H:9])([H:10])[H:14]>>[C:1]([C:3]1([C:2]([H:11])([H:12])[H:13])[C:4]([H:7])=[C:5]([H:8])[C:6]1([H:15])[H:16])([H:9])([H:10])[H:14],51.33577500001167
MR_648147_0,[n:1]1([O:6][H:8])[c:2](=[O:7])[o:5][c:3]([H:9])[c:4]1[H:10]>>[N:1](=[C:4](/[C:3]1([H:9])[C:2](=[O:7])[O:5]1)[H:10])\[O:6][H:8],66.99440999999894
MR_329834_1,[C@@:1]([C:2]([H:13])([H:14])[H:15])([C:6](=[O:9])[H:11])([C:7](=[C:5]([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])[H:12])[O:8][H:10]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:7](/[C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:6](=[O:9])[H:11])[H:12])[O:8][H:10],53.97001999999532
MR_413946_0,[C:1]1([H:13])([H:14])[N:3]([H:10])[C:5]([C:2]([H:16])([H:17])[H:18])([C:7](/[C:6](=[N:9]\[H:12])[H:15])([H:19])[H:20])/[C:4]1=[N:8]/[H:11]>>[C:1]([N:3](/[C:6](=[N:9]\[H:12])[H:15])[H:10])(/[C:4]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])=[N:8]\[H:11])([H:13])[H:14],63.87887250001768
MR_166205_0,[C:1]([N:3]([H:9])[H:10])([C:4](=[O:7])[H:11])(/[C:5](=[C:6](\[C:2]([H:14])([H:15])[H:16])[H:13])[H:12])[H:8]>>[C:1](\[N:3]([H:9])[H:10])(=[C:5](\[C:6]([C:2]([H:14])([H:15])[H:16])([C:4](=[O:7])[H:11])[H:13])[H:12])[H:8],52.04861500003105
MR_474081_1,[C:1]([N:6][N:5]/[C:3]([N:2]([O:4][H:8])[H:9])=[N:7]/[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:6]([N:2]([O:4][H:8])[H:9])[N:5][C:3][N:7][H:10])([H:11])([H:12])[H:13],69.90663749999413
MR_551321_0,[C:1]1([H:6])([H:7])[N:2]([H:4])[N:3]1[H:5]>>[C:1](\[N:2]([H:4])[H:7])(=[N:3]/[H:5])[H:6],60.94530999998717
MR_360328_1,[C:1]([C:2]([O:8][H:11])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([N:5]([C:3]([H:14])([H:15])[H:16])[O:6][H:9])[O:7][H:10]>>[C:1]([C:4]([H:17])([H:18])[H:19])([N:5]([C:2]([O:8][H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])([O:6][H:9])[O:7][H:10],64.45428999999166
MR_234957_1,[C:1]([C:5]([N:3]([N:2](/[C:4](=[C:7](\[N:6]([H:13])[H:14])[H:15])[O:8][H:10])[H:11])[H:12])=[O:9])([H:16])([H:17])[H:18]>>[C:1]([C:5]([C@:7]([C:4]1([O:8][H:10])[N:2]([H:11])[N:3]1[H:12])([N:6]([H:13])[H:14])[H:15])=[O:9])([H:16])([H:17])[H:18],64.42605250002728
MR_661727_1,[n:1]1([H:9])[c:3](=[O:7])[n:6][c:5]([H:11])[n:2][c:4]1[O:8][H:10]>>[n:1]1([H:9])[c:3](=[O:7])[n:6][c:5]([H:11])[n:2]([H:10])[c:4]1=[O:8],33.9966949999868
MR_509545_0,[C:1](/[C:3]([O:5][C:2]([N:4]([H:8])[H:9])=[O:7])=[N:6]/[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:3](=[N:6]/[H:10])[O:7][C:2]([N:4]([H:8])[H:9])=[O:5])([H:11])([H:12])[H:13],27.146905000016943
